Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
IV Dye, Iodine Containing / Penicillins / Aspirin / Vancomycin
 
Attending: ___.
 
Chief Complaint:
Jaundice and abdominal pain for two weeks
 
Major Surgical or Invasive Procedure:
___ ERCP with placement of percutaneous transhepatic 
external and internal drainage catheter.

___ Biliary stent placement

___ Biliary catheter check

 
History of Present Illness:
___ year old female with question of stage IV cecal cancer s/p 
resection ___, ___) and FOLFOX (6 cycles), recent increase 
in CEA and obstructive jaundice symptoms x 2 weeks, prompting CT 
scan showing question of biliary
obstruction with ductal dilatation and distended GB and question 
of portal
lymphadenopathy.  ERCP done today to look for source of 
obstructed CBD, patient had been developing abdominal pain and 
jaundice over the past two weeks and was noted to have a dilated 
gallbladder and common bile duct.  ERCP with malignant 
obstruction and likely complicated by perforation of CBD per GI 
notes, no stones seen.

 
Past Medical History:
PMH: asthma

PSH: R hemicolectomy c partial SBR ___  
appendectomy
portacath right subclavian
diagnostic laparoscopy (GYN)

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
On Admission:

Vitals- T 97.3, HR 80, BP 116/70, RR 16, O2sat 98%
Gen- NAD, alert, jaundice
Head and neck- AT, NC, soft, supple, no masses
Heart- RRR, no murmurs
Lungs- CTAB, no rhonchi, no crackles
Abd- soft, ND, mild epigastric tenderness, no peritoneal signs,
small midline well-healed scar
Ext- warm, well-perfused, no edema

 
Pertinent Results:
___ 09:07PM   LACTATE-1.9
___ 07:30PM   GLUCOSE-93 UREA N-13 CREAT-0.6 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-25 ANION GAP-16
___ 07:30PM   ALT(SGPT)-381* AST(SGOT)-247* ALK PHOS-1091* 
TOT BILI-10.2*
___ 07:30PM   LIPASE-52
___ 07:30PM   ALBUMIN-3.5
___ 07:30PM   WBC-7.2 RBC-3.26* HGB-10.2* HCT-30.7* MCV-94 
MCH-31.2 MCHC-33.2 RDW-14.4
___ 07:30PM   NEUTS-78.7* LYMPHS-14.7* MONOS-2.5 EOS-3.6 
BASOS-0.4
___ 07:30PM   PLT COUNT-283
___ 07:30PM   ___ PTT-31.1 ___
___ 07:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-50 BILIRUBIN-SM UROBILNGN-NEG PH-6.5 LEUK-MOD
___ 07:30PM URINE  ___ BACTERIA-MOD 
YEAST-NONE ___
.
___ Abdominal/Pelvic CT W/O Contrast:
1. Mild thickening of the second portion of the duodenum is not 
unexpected 
after ERCP. Contrast material is seen within the gallbladder. 
While there is diffuse mesenteric stranding and small amount of 
simple fluid within the pelvis, no free air or evidence of 
extravasated contrast is seen to suggest perforation. Biliary 
tree evaluation and search for underlying mass is limited due to 
lack of IV contrast administration. 
2. Status post right partial colectomy. 
.
___ PTBD:
PFI: High-grade stricture at the common bile duct with 
high-grade dilation of bile ducts above the common bile duct, 
and placement of percutaneous 
transhepatic external-internal biliary draining catheter with 
the catheter 
connected to a bag for external drainage.
.
 

  

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation and treatment of the aforementioned problems. She was 
made NPO, started on IV fluid rescusitation and IV antibiotics, 
and given acetaminophen for disconfort with good effect. 
Abdominal/pelvic CT without contrast was performed. The patient 
was hemodynamically stable.

Neuro: The patient received acetaminophen in general, and IV 
Morphine post-procedure, with good effect and adequate pain 
control.
CV: CXR performed on ___ confirmed the placement of her 
port-a-cath, which was used for IV administration during 
hospitalization without issue. The patient remained stable from 
a cardiovascular standpoint; vital signs were routinely 
monitored.
Pulmonary: ___ CXR was unremarkable. The patient remained 
stable from a pulmonary standpoint; vital signs were routinely 
monitored. Good pulmonary toilet, early ambulation and incentive 
spirrometry were encouraged throughout hospitalization.
GU/FEN: Initially, the patient was made NPO and received IV 
fluid rescusitation with good response. Her diet was advanced to 
a low residue regular over the course of 4 days, which she 
tolerated. She was made NPO for procedures, but each time was 
able to return to the low residue regular. Adequate urine output 
was maintained. Patient's intake and output were closely 
monitored, and IV fluid was adjusted when necessary.  
Electrolytes were routinely followed, and repleted when 
necessary.
GI: On ___, the patient underwent PTBD with placement of a 
percutaneous transhepatic external-internal biliary draining 
catheter for a high-grade stricture at the common bile duct 
without complication. Returned on ___ to have a metal stent 
placed, and then again on ___ to undergo an bilairy drain 
check, which showed the drain to be patent and intact. The 
biliary catheter drain was left in place due to continued 
abdominal pain. All procedures went well without complication. 
Bowel function remained normal. 
ID: The patient was started on IV Flagyl and Levaquin on 
admission for UTI and presumptive GI infection. The patient's 
white blood count and fever curves were closely watched for 
signs of infection.
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.

At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs.  The patient was tolerating a 
regular low residue diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged home with the biliary catheter in place with ___ 
services for drain care. Plan is to return ___, ___ for 
repeat cholangiogram and possible tube removal. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 
Medications on Admission:
Gabapentin 300mg PO TID, Pancrease MT 20 PO TID with meals, 
Vicodin or Percocet PRN, Herbal products
 
Discharge Medications:
1. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
3. Heparin Flush (10 units/ml) 5 mL IV PRN line flush 
Indwelling Port (e.g. Portacath), heparin dependent: Flush with 
10 mL Normal Saline followed by Heparin as above daily and PRN 
per lumen. 
4. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
Indwelling Port (e.g. Portacath), heparin dependent: When 
de-accessing port, instill Heparin as above per lumen. 
5. Medication:
Pancrease MT 20 *NF* 1 tab 20000U-65000U-65000U Oral TID with 
meals 

6. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 7 days.
Disp:*21 Tablet(s)* Refills:*0*
7. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 7 days.
Disp:*7 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
1. Metastatic cecal cancer
2. Obstructive jaundice
3. UTI

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency  Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours.  Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  

Avoid driving or operating heavy machinery while taking pain 
medications.

General Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain.  Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently.  Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water. Keep the insertion 
site clean and dry otherwise. ___ apply a drain sponge as 
needed.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
Followup Instructions:
___